US07199147B2
To a solution of 1-(1H-indazol-5-yl)methanamine (291 mg) in N,N-dimethylformamide (8 ml) were added 1-(tert-butoxycarbonyl)-4-piperidinecarboxylic acid (507 mg, 2.21 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (578 mg, 3.02 mmol) and hydroxybenzotriazole (229 mg, 2.21 mmol), and the resulting mixture was stirred at room temperature for 14 hours. Subsequently, a saturated aqueous sodium hydrogencarbonate solution and then water were added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=40/1). To a solution of the resulting solid in a mixture of methanol (1 ml) and tetrahydrofuran (1 ml) was added a 2N-aqueous lithium hydroxide solution (0.68 ml), and the resulting mixture was stirred at room temperature for 30 minutes. Then, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=30/1) to obtain tert-butyl 4{[(1H-indazol-5-ylmethyl)amino]carbonyl}-1-piperidinecarboxylate (179 mg).

reactant | 1-(1H-indazol-5-yl)methanamine | 291 mg | N1N=CC2=CC(=CC=C12)CN | C8H9N3
reactant | 1-(tert-butoxycarbonyl)-4-piperidinecarboxylic acid | 2.21 mmol, 507 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 3.02 mmol, 578 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 2.21 mmol, 229 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 4{[(1H-indazol-5-ylmethyl)amino]carbonyl}-1-piperidinecarboxylate | 179 mg | N1N=CC2=CC(=CC=C12)CNC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C19H26N4O3
